US07553854B2
To the solution of 2-chloro-6-methoxybenzo[d]thiazole (900 mg, 4.5 mmol) in 4.5 ml of NMP was added cyclohexylmethanamine (865 mg, 7.65 mmol) and DIPEA (1.57 ml, 9.0 mmol). The reaction solution was stirred at 105-110° C. for 66 hours. The reaction was worked up by adding 250 ml ethyl acetate and washed with 2×60 ml of saturated NaHCO3, 3×60 ml water, 1×60 ml saturated NaCl, dried with sodium sulfate, filtered and concentrated in vacuo to give N-(cyclohexylmethyl)-6-methoxybenzo[d]thiazol-2-amine as solid (1.18 grams). ES/MS m/z 277.1 (MH+).

reactant | 2-chloro-6-methoxybenzo[d]thiazole | 4.5 mmol, 900 mg | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
reactant | cyclohexylmethanamine | 7.65 mmol, 865 mg | C1(CCCCC1)CN | C7H15N
reactant | DIPEA | 9.0 mmol, 1.57 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | NMP | 4.5 ml | CN1CCCC1=O | C5H9NO
product | N-(cyclohexylmethyl)-6-methoxybenzo[d]thiazol-2-amine | 1.18 grams | C1(CCCCC1)CNC=1SC2=C(N1)C=CC(=C2)OC | C15H20N2OS
